US08912186B2
By a procedure similar to that of example 1.4, starting from 4-iodo-1,2-phenylenediamine and 3-(3,4-dichlorophenyl)glutaric anhydride, 3-(3,4-dichlorophenyl)-4-(5-iodo-2-benzimidazolyl)butanoic acid•HCl was obtained as off-white solid.

reactant | 4-iodo-1,2-phenylenediamine | IC1=CC(=C(C=C1)N)N | C6H7IN2
reactant | 3-(3,4-dichlorophenyl)glutaric anhydride | ClC=1C=C(C=CC1Cl)C1CC(=O)OC(C1)=O | C11H8Cl2O3
product | 3-(3,4-dichlorophenyl)-4-(5-iodo-2-benzimidazolyl)butanoic acid•HCl | ClC=1C=C(C=CC1Cl)C(CC(=O)O)CC=1NC2=C(N1)C=CC(=C2)I.Cl | InChI=1S/C17H13Cl2IN2O2.ClH/c18-12-3-1-9(5-13(12)19)10(7-17(23)24)6-16-21-14-4-2-11(20)8-15(14)22-16;/h1-5,8,10H,6-7H2,(H,21,22)(H,23,24);1H
